* c:\users\glenn\esim-workspace\dac\dac.cir

.include 10bitDAC.sub
.include lm_741.sub
x1 d0 d1 d2 d3 d4 d5 d6 d7 gnd gnd a0 10bitDAC
* u9  a0 plot_v1
v8  d0 gnd pulse(0 2 0 0 0 0.5 1)
v7  d1 gnd pulse(0 2 0 0 0 1 2)
v6  d2 gnd pulse(0 2 0 0 0 2 4)
v5  d3 gnd pulse(0 2 0 0 0 4 8)
v4  d4 gnd pulse(0 2 0 0 0 8 16)
v3  d5 gnd pulse(0 2 0 0 0 16 32)
v2  d6 gnd pulse(0 2 0 0 0 32 64)
v1  d7 gnd pulse(0 2 0 0 0 64 128)
* u1  d7 plot_v1
* u2  d6 plot_v1
* u3  d5 plot_v1
* u4  d4 plot_v1
* u5  d3 plot_v1
* u6  d2 plot_v1
* u7  d1 plot_v1
* u8  d0 plot_v1
x2 ? in a0 net-_x2-pad4_ ? c0 net-_x2-pad7_ ? lm_741
v9  gnd in sine(0 1.25 .05 0 0)
* u10  c0 plot_v1
v10 net-_x2-pad7_ gnd  dc 3
* u11  in plot_v1
v11 gnd net-_x2-pad4_  dc 3
* u13  net-_u12-pad3_ net-_u12-pad4_ net-_u13-pad3_ d_and
* u12  c0 d0 net-_u12-pad3_ net-_u12-pad4_ adc_bridge_2
* u14  net-_u13-pad3_ anddout dac_bridge_1
* u15  anddout plot_v1
a1 [net-_u12-pad3_ net-_u12-pad4_ ] net-_u13-pad3_ u13
a2 [c0 d0 ] [net-_u12-pad3_ net-_u12-pad4_ ] u12
a3 [net-_u13-pad3_ ] [anddout ] u14
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u13 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u12 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u14 dac_bridge(out_low=0.0 out_high=2 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-00 128e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(d0) v(c0)+5 v(anddout)+9
.endc
.end
