* c:\users\glenn\esim-workspace\ram128x32\ram128x32.cir

* u13  net-_u13-pad1_ net-_u13-pad2_ net-_u13-pad3_ net-_u13-pad4_ net-_u13-pad5_ net-_u13-pad6_ net-_u13-pad7_ net-_u13-pad8_ net-_u13-pad9_ net-_u13-pad10_ net-_u13-pad11_ net-_u13-pad12_ net-_u13-pad13_ net-_u13-pad14_ net-_u13-pad15_ net-_u13-pad16_ net-_u13-pad17_ net-_u13-pad18_ net-_u13-pad19_ net-_u13-pad20_ net-_u13-pad21_ net-_u13-pad22_ net-_u13-pad23_ net-_u13-pad24_ net-_u13-pad25_ net-_u13-pad26_ net-_u13-pad27_ net-_u13-pad28_ net-_u13-pad29_ net-_u13-pad30_ net-_u13-pad31_ net-_u13-pad32_ net-_u13-pad33_ net-_u13-pad34_ net-_u13-pad35_ net-_u13-pad36_ net-_u13-pad37_ net-_u13-pad38_ net-_u13-pad39_ net-_u13-pad40_ net-_u13-pad41_ net-_u13-pad42_ net-_u13-pad43_ net-_u13-pad44_ net-_u13-pad45_ net-_u13-pad46_ net-_u13-pad47_ net-_u13-pad48_ net-_u13-pad49_ net-_u13-pad50_ net-_u13-pad51_ net-_u13-pad52_ net-_u13-pad53_ net-_u13-pad54_ net-_u13-pad55_ net-_u13-pad56_ net-_u13-pad57_ net-_u13-pad58_ net-_u13-pad59_ net-_u13-pad60_ net-_u13-pad61_ net-_u13-pad62_ net-_u13-pad63_ net-_u13-pad64_ net-_u13-pad65_ net-_u13-pad66_ net-_u13-pad67_ net-_u13-pad68_ net-_u13-pad69_ net-_u13-pad70_ net-_u13-pad71_ net-_u13-pad72_ net-_u13-pad73_ glenn_ram128x32
* u19  d2431 d2431 d2431 d2431 d2431 d2431 d2431 d2431 net-_u13-pad10_ net-_u13-pad11_ net-_u13-pad12_ net-_u13-pad13_ net-_u13-pad14_ net-_u13-pad15_ net-_u13-pad16_ net-_u13-pad17_ adc_bridge_8
* u16  d07 d07 d07 d07 d07 d07 d07 d07 net-_u13-pad34_ net-_u13-pad35_ net-_u13-pad36_ net-_u13-pad37_ net-_u13-pad38_ net-_u13-pad39_ net-_u13-pad40_ net-_u13-pad41_ adc_bridge_8
* u20  d815 d815 d815 d815 d815 d815 d815 d815 net-_u13-pad26_ net-_u13-pad27_ net-_u13-pad28_ net-_u13-pad29_ net-_u13-pad30_ net-_u13-pad31_ net-_u13-pad32_ net-_u13-pad33_ adc_bridge_8
* u15  d1623 d1623 d1623 d1623 d1623 d1623 d1623 d1623 net-_u13-pad18_ net-_u13-pad19_ net-_u13-pad20_ net-_u13-pad21_ net-_u13-pad22_ net-_u13-pad23_ net-_u13-pad24_ net-_u13-pad25_ adc_bridge_8
* u14  a6 a5 a4 a3 a2 a1 a0 net-_u13-pad3_ net-_u13-pad4_ net-_u13-pad5_ net-_u13-pad6_ net-_u13-pad7_ net-_u13-pad8_ net-_u13-pad9_ adc_bridge_7
* u21  net-_u13-pad42_ net-_u13-pad43_ net-_u13-pad44_ net-_u13-pad45_ net-_u13-pad46_ net-_u13-pad47_ net-_u13-pad48_ net-_u13-pad49_ q31 q30 q29 q28 q27 q26 q25 q24 dac_bridge_8
* u28  net-_u13-pad50_ net-_u13-pad51_ net-_u13-pad52_ net-_u13-pad53_ net-_u13-pad54_ net-_u13-pad55_ net-_u13-pad56_ net-_u13-pad57_ q23 q22 q21 q20 q19 q18 q17 q16 dac_bridge_8
* u22  net-_u13-pad58_ net-_u13-pad59_ net-_u13-pad60_ net-_u13-pad61_ net-_u13-pad62_ net-_u13-pad63_ net-_u13-pad64_ net-_u13-pad65_ q15 q14 q13 q12 q11 q10 q9 q8 dac_bridge_8
* u29  net-_u13-pad66_ net-_u13-pad67_ net-_u13-pad68_ net-_u13-pad69_ net-_u13-pad70_ net-_u13-pad71_ net-_u13-pad72_ net-_u13-pad73_ q7 q6 q5 q4 q3 q2 q1 q0 dac_bridge_8
v3  a5 gnd pulse(0 5 0.1m 0.1m 0.1m 32 64)
v9  a0 gnd pulse(0 5 0.1m 0.1m 0.1m 1 2)
v7  a1 gnd pulse(0 5 0.1m 0.1m 0.1m 2 4)
v6  a2 gnd pulse(0 5 0.1m 0.1m 0.1m 4 8)
v5  a3 gnd pulse(0 5 0.1m 0.1m 0.1m 8 16)
v4  a4 gnd pulse(0 5 0.1m 0.1m 0.1m 16 32)
v2  a6 gnd pulse(0 5 0.1m 0.1m 0.1m 64 128)
* u23  q31 plot_v1
* u25  q29 plot_v1
* u27  q27 plot_v1
* u31  q25 plot_v1
* u33  q23 plot_v1
* u35  q21 plot_v1
* u37  q19 plot_v1
* u39  q17 plot_v1
* u41  q15 plot_v1
* u43  q13 plot_v1
* u45  q11 plot_v1
* u47  q9 plot_v1
* u24  q30 plot_v1
* u26  q28 plot_v1
* u30  q26 plot_v1
* u32  q24 plot_v1
* u34  q22 plot_v1
* u36  q20 plot_v1
* u38  q18 plot_v1
* u40  q16 plot_v1
* u42  q14 plot_v1
* u44  q12 plot_v1
* u46  q10 plot_v1
* u48  q8 plot_v1
* u49  q7 plot_v1
* u50  q6 plot_v1
* u51  q5 plot_v1
* u52  q4 plot_v1
* u53  q3 plot_v1
* u54  q2 plot_v1
* u55  q1 plot_v1
* u56  q0 plot_v1
* u1  we plot_v1
* u2  a6 plot_v1
* u3  a5 plot_v1
* u4  a4 plot_v1
* u5  a3 plot_v1
* u6  a2 plot_v1
* u8  a1 plot_v1
* u9  a0 plot_v1
* u17  clk plot_v1
* u11  d2431 plot_v1
* u10  d1623 plot_v1
* u12  d815 plot_v1
* u7  d07 plot_v1
v13  net-_r1-pad1_ gnd pulse(0 5 0.1m 0.1m 0.1m 1 2)
v1 we gnd  dc 5
r1  net-_r1-pad1_ clk 1k
* u18  clk we net-_u13-pad1_ net-_u13-pad2_ adc_bridge_2
r2  ? gnd 1k
v11 d815 gnd  dc 5
v10 d1623 gnd  dc 5
v8 d2431 gnd  dc 5
v12 d07 gnd  dc 5
a1 [net-_u13-pad1_ ] [net-_u13-pad2_ ] [net-_u13-pad3_ net-_u13-pad4_ net-_u13-pad5_ net-_u13-pad6_ net-_u13-pad7_ net-_u13-pad8_ net-_u13-pad9_ ] [net-_u13-pad10_ net-_u13-pad11_ net-_u13-pad12_ net-_u13-pad13_ net-_u13-pad14_ net-_u13-pad15_ net-_u13-pad16_ net-_u13-pad17_ net-_u13-pad18_ net-_u13-pad19_ net-_u13-pad20_ net-_u13-pad21_ net-_u13-pad22_ net-_u13-pad23_ net-_u13-pad24_ net-_u13-pad25_ net-_u13-pad26_ net-_u13-pad27_ net-_u13-pad28_ net-_u13-pad29_ net-_u13-pad30_ net-_u13-pad31_ net-_u13-pad32_ net-_u13-pad33_ net-_u13-pad34_ net-_u13-pad35_ net-_u13-pad36_ net-_u13-pad37_ net-_u13-pad38_ net-_u13-pad39_ net-_u13-pad40_ net-_u13-pad41_ ] [net-_u13-pad42_ net-_u13-pad43_ net-_u13-pad44_ net-_u13-pad45_ net-_u13-pad46_ net-_u13-pad47_ net-_u13-pad48_ net-_u13-pad49_ net-_u13-pad50_ net-_u13-pad51_ net-_u13-pad52_ net-_u13-pad53_ net-_u13-pad54_ net-_u13-pad55_ net-_u13-pad56_ net-_u13-pad57_ net-_u13-pad58_ net-_u13-pad59_ net-_u13-pad60_ net-_u13-pad61_ net-_u13-pad62_ net-_u13-pad63_ net-_u13-pad64_ net-_u13-pad65_ net-_u13-pad66_ net-_u13-pad67_ net-_u13-pad68_ net-_u13-pad69_ net-_u13-pad70_ net-_u13-pad71_ net-_u13-pad72_ net-_u13-pad73_ ] u13
a2 [d2431 d2431 d2431 d2431 d2431 d2431 d2431 d2431 ] [net-_u13-pad10_ net-_u13-pad11_ net-_u13-pad12_ net-_u13-pad13_ net-_u13-pad14_ net-_u13-pad15_ net-_u13-pad16_ net-_u13-pad17_ ] u19
a3 [d07 d07 d07 d07 d07 d07 d07 d07 ] [net-_u13-pad34_ net-_u13-pad35_ net-_u13-pad36_ net-_u13-pad37_ net-_u13-pad38_ net-_u13-pad39_ net-_u13-pad40_ net-_u13-pad41_ ] u16
a4 [d815 d815 d815 d815 d815 d815 d815 d815 ] [net-_u13-pad26_ net-_u13-pad27_ net-_u13-pad28_ net-_u13-pad29_ net-_u13-pad30_ net-_u13-pad31_ net-_u13-pad32_ net-_u13-pad33_ ] u20
a5 [d1623 d1623 d1623 d1623 d1623 d1623 d1623 d1623 ] [net-_u13-pad18_ net-_u13-pad19_ net-_u13-pad20_ net-_u13-pad21_ net-_u13-pad22_ net-_u13-pad23_ net-_u13-pad24_ net-_u13-pad25_ ] u15
a6 [a6 a5 a4 a3 a2 a1 a0 ] [net-_u13-pad3_ net-_u13-pad4_ net-_u13-pad5_ net-_u13-pad6_ net-_u13-pad7_ net-_u13-pad8_ net-_u13-pad9_ ] u14
a7 [net-_u13-pad42_ net-_u13-pad43_ net-_u13-pad44_ net-_u13-pad45_ net-_u13-pad46_ net-_u13-pad47_ net-_u13-pad48_ net-_u13-pad49_ ] [q31 q30 q29 q28 q27 q26 q25 q24 ] u21
a8 [net-_u13-pad50_ net-_u13-pad51_ net-_u13-pad52_ net-_u13-pad53_ net-_u13-pad54_ net-_u13-pad55_ net-_u13-pad56_ net-_u13-pad57_ ] [q23 q22 q21 q20 q19 q18 q17 q16 ] u28
a9 [net-_u13-pad58_ net-_u13-pad59_ net-_u13-pad60_ net-_u13-pad61_ net-_u13-pad62_ net-_u13-pad63_ net-_u13-pad64_ net-_u13-pad65_ ] [q15 q14 q13 q12 q11 q10 q9 q8 ] u22
a10 [net-_u13-pad66_ net-_u13-pad67_ net-_u13-pad68_ net-_u13-pad69_ net-_u13-pad70_ net-_u13-pad71_ net-_u13-pad72_ net-_u13-pad73_ ] [q7 q6 q5 q4 q3 q2 q1 q0 ] u29
a11 [clk we ] [net-_u13-pad1_ net-_u13-pad2_ ] u18
* Schematic Name:                             glenn_ram128x32, NgSpice Name: glenn_ram128x32
.model u13 glenn_ram128x32(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u19 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u16 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u20 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u15 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_7, NgSpice Name: adc_bridge
.model u14 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u21 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u28 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u22 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u29 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u18 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran .1e-00 512e-00 1e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(q31)
plot v(q29)
plot v(q27)
plot v(q25)
plot v(q23)
plot v(q21)
plot v(q19)
plot v(q17)
plot v(q15)
plot v(q13)
plot v(q11)
plot v(q9)
plot v(q30)
plot v(q28)
plot v(q26)
plot v(q24)
plot v(q22)
plot v(q20)
plot v(q18)
plot v(q16)
plot v(q14)
plot v(q12)
plot v(q10)
plot v(q8)
plot v(q7)
plot v(q6)
plot v(q5)
plot v(q4)
plot v(q3)
plot v(q2)
plot v(q1)
plot v(q0)
plot v(we)
plot v(a6)
plot v(a5)
plot v(a4)
plot v(a3)
plot v(a2)
plot v(a1)
plot v(a0)
plot v(clk)
plot v(d2431)
plot v(d1623)
plot v(d815)
plot v(d07)
.endc
.end
