* C:\Users\glenn\eSim-Workspace\glenn_ASIC_digitalpart\glenn_ASIC_digitalpart.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 3/10/2022 10:20:17 PM

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
v1  Net-_U3-Pad6_ GND DC		
v2  clk GND pulse		
U7  Net-_U3-Pad6_ Net-_U3-Pad6_ Net-_U3-Pad6_ Net-_U3-Pad6_ Net-_U3-Pad6_ Net-_U3-Pad6_ Net-_U3-Pad6_ Net-_U3-Pad6_ Net-_U1-Pad33_ Net-_U1-Pad34_ Net-_U1-Pad35_ Net-_U1-Pad36_ Net-_U1-Pad37_ Net-_U1-Pad38_ Net-_U1-Pad39_ Net-_U1-Pad40_ adc_bridge_8		
U6  GND GND GND GND GND Net-_U3-Pad6_ GND Net-_U3-Pad6_ Net-_U1-Pad25_ Net-_U1-Pad26_ Net-_U1-Pad27_ Net-_U1-Pad28_ Net-_U1-Pad29_ Net-_U1-Pad30_ Net-_U1-Pad31_ Net-_U1-Pad32_ adc_bridge_8		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ Net-_U1-Pad9_ Net-_U1-Pad10_ Net-_U1-Pad11_ Net-_U1-Pad12_ Net-_U1-Pad13_ Net-_U1-Pad14_ Net-_U1-Pad15_ Net-_U1-Pad16_ Net-_U1-Pad17_ Net-_U1-Pad18_ Net-_U1-Pad19_ Net-_U1-Pad20_ Net-_U1-Pad21_ Net-_U1-Pad22_ Net-_U1-Pad23_ Net-_U1-Pad24_ Net-_U1-Pad25_ Net-_U1-Pad26_ Net-_U1-Pad27_ Net-_U1-Pad28_ Net-_U1-Pad29_ Net-_U1-Pad30_ Net-_U1-Pad31_ Net-_U1-Pad32_ Net-_U1-Pad33_ Net-_U1-Pad34_ Net-_U1-Pad35_ Net-_U1-Pad36_ Net-_U1-Pad37_ Net-_U1-Pad38_ Net-_U1-Pad39_ Net-_U1-Pad40_ Net-_U1-Pad41_ Net-_U1-Pad42_ Net-_U1-Pad43_ ? ? ? ? ? ? ? ? Net-_U1-Pad52_ glenn_asic		
U5  GND GND GND GND GND Net-_U3-Pad6_ GND Net-_U3-Pad6_ Net-_U1-Pad17_ Net-_U1-Pad18_ Net-_U1-Pad19_ Net-_U1-Pad20_ Net-_U1-Pad21_ Net-_U1-Pad22_ Net-_U1-Pad23_ Net-_U1-Pad24_ adc_bridge_8		
U4  GND GND GND GND GND Net-_U3-Pad6_ GND Net-_U3-Pad6_ Net-_U1-Pad9_ Net-_U1-Pad10_ Net-_U1-Pad11_ Net-_U1-Pad12_ Net-_U1-Pad13_ Net-_U1-Pad14_ Net-_U1-Pad15_ Net-_U1-Pad16_ adc_bridge_8		
U3  GND GND GND GND GND Net-_U3-Pad6_ GND Net-_U3-Pad6_ Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ adc_bridge_8		
U8  clk clk Net-_U3-Pad6_ Net-_U1-Pad41_ Net-_U1-Pad42_ Net-_U1-Pad43_ adc_bridge_3		
U9  Net-_U1-Pad52_ Net-_R1-Pad1_ dac_bridge_1		
U2  clk plot_v1		
U10  TX plot_v1		
Q1  TX Net-_Q1-Pad2_ Net-_Q1-Pad3_ BD139		
R1  Net-_R1-Pad1_ Net-_Q1-Pad3_ 2.2k		
R2  GND TX 39k		
v3  GND Net-_Q1-Pad2_ sine		

.end
